US06005116
(c) 3-Hydroxy-5-(4-isopropylphenyl)isoxazole
α,β-Dibromo-4-isopropylcinnamic acid ethyl ester (9.5 g), hydroxylamine hydrochloride (2.2 g) and sodium hydroxide (5.2 g) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(c) to obtain the title compound (3.6 g, 71%) as colorless crystals.

reactant | α,β-Dibromo-4-isopropylcinnamic acid ethyl ester | 9.5 g | C(C)OC(C(=C(C1=CC=C(C=C1)C(C)C)Br)Br)=O | C14H16Br2O2
reactant | hydroxylamine hydrochloride | 2.2 g | Cl.NO
reactant | sodium hydroxide | 5.2 g | [OH-].[Na+]
product | 3-Hydroxy-5-(4-isopropylphenyl)isoxazole | 3.6 g, 71% | OC1=NOC(=C1)C1=CC=C(C=C1)C(C)C | C12H13NO2
